US05861529
1.5 cm3 of 33% (w/w) sodium hydroxide solution, followed by 1.5 cm3 of dimethyl sulphate, are added, with stirring, to a suspension of 3.75 g of S-triphenylmethyl-L-cysteine in 15 cm3 of water. The reaction mixture is heated with stirring at 90° C. until a clear solution is obtained and is then heated at reflux for 2 hours. After cooling, the precipitate obtained is filtered off and washed with water and then with diethyl ether. 1.95 g of N-methyl-S-triphenylmethyl-L-cysteine are thus obtained, melting at 114° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulphate | 1.5 cm3 | S(=O)(=O)(OC)OC | C2H6O4S
reactant | S-triphenylmethyl-L-cysteine | 3.75 g | C1(=CC=CC=C1)C(SC[C@H](N)C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21NO2S
solvent | water | 15 cm3 | O | H2O
product | N-methyl-S-triphenylmethyl-L-cysteine | 1.95 g | CN[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C23H23NO2S
